US05380742
11.4 1-Ethoxycarbonyl-5-[(4,5-dihydro-1H-imidazol-2yl)methyl]-5,6-dihydro-4H-thieno[3, 4-c]pyrrole dihydrochloride.
A solution of 0.65 g of 1-ethoxycarbonyl-5,6-dihydro-4h-thieno[3,4-c]pyrrole hydrochloride and 1.47 ml of N,N-diisopropylethylamine in 15 ml of dimethylformamide is poured onto a mixture of 0.75 g of 2-chloromethyl-1H-4,5dihydroimidazole hydrochloride, 0.5 ml of N,N-diisopropylethylamine and 15 ml of dimethylformamide. The mixture is subjected to ultrasound for 4 h and is then evaporated under vacuum. The residue is dissolved in 3 ml of ethanol and chromatography is carried out on a silica column with ethanol as eluent. After evaporating the solvent, the residue is treated with 5 ml of isopropanol saturated with hydrochloric acid. 0.182 g of product is obtained. Melting point: 213°-215° C. (with decomposition).

reactant | 1-ethoxycarbonyl-5,6-dihydro-4h-thieno[3,4-c]pyrrole hydrochloride | 0.65 g | Cl.C(C)OC(=O)C=1SC=C2C1CNC2
reactant | N,N-diisopropylethylamine | 1.47 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 0.5 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-Ethoxycarbonyl-5-[(4,5-dihydro-1H-imidazol-2yl)methyl]-5,6-dihydro-4H-thieno[3, 4-c]pyrrole dihydrochloride | 0.182 g | Cl.Cl.C(C)OC(=O)C=1SC=C2C1CN(C2)CC=2NCCN2 | InChI=1S/C13H17N3O2S.2ClH/c1-2-18-13(17)12-10-6-16(5-9(10)8-19-12)7-11-14-3-4-15-11;;/h8H,2-7H2,1H3,(H,14,15);2*1H
